US06894042B2
Methyl 3-(allyloxy)-4-iodobenzoate (2.0 g, 6.28 mmol) is dissolved in DMF (15 ml), treated with Pd(OAc)2 (71 mg, 0.31 mmol), Na2CO3 (1.67 g, 15.7 mmol), sodium formate (427 mg, 6.28 mmol), and n-Bu4NCl.H2O (1.92 g, 6.92 mmol) and stirred at 80° C. for 2 days. The mixture is then filtered, the liquor is diluted with EtOAc (75 ml) and washed with 50% saturated NaCl (4×25 ml) followed by 5% HCl (25 ml). The organic layer is dried (Na2SO4), filtered, and concentrated to a brown oil. The crude material is chromatographed over 50 g slurry-packed silica gel, eluting with 20% EtOAc/hexane. The appropriate fractions are combined and concentrated to afford 797 mg (67%) of methyl 3-methyl-1-benzofuran-6-carboxylate as a pale oil. HRMS (FAB) calcd for C11H10O3+H: 191.0708, found 191.0714 (M+H)+.

reactant | Methyl 3-(allyloxy)-4-iodobenzoate | 6.28 mmol, 2.0 g | C(C=C)OC=1C=C(C(=O)OC)C=CC1I | C11H11IO3
reactant | Na2CO3 | 15.7 mmol, 1.67 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium formate | 6.28 mmol, 427 mg | C(=O)[O-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | n-Bu4NCl.H2O | 6.92 mmol, 1.92 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-].O
catalyst | Pd(OAc)2 | 0.31 mmol, 71 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 3-methyl-1-benzofuran-6-carboxylate | 797 mg, 67% | CC1=COC2=C1C=CC(=C2)C(=O)OC | C11H10O3
